US06664427B1
The 4′-fluoro-salicylanilide was prepared by condensing phenyl salicylate with 4-fluoroaniline then purified as described in Example 2a. The ligand mixture was then prepared from 4′-fluoro-salicylanilide and 1,1′-bi-2-naphthol using the procedure described in Example 5a. 31P NMR (121.77 MHz): several peaks between 117.1-117.7 ppm.

reactant | phenyl salicylate | C(C=1C(O)=CC=CC1)(=O)OC1=CC=CC=C1 | C13H10O3
reactant | 4-fluoroaniline | FC1=CC=C(N)C=C1 | C6H6FN
product | 4′-fluoro-salicylanilide | FC1=CC=C(NC(C=2C(O)=CC=CC2)=O)C=C1 | C13H10FNO2
